US04709082
(±)-2-Phenylpropionic acid in the amount of 7.50 g (50 mmol) and 7.14 g (60 mmol) of thionyl chloride were heated for 1 hour under reflux in carbon tetrachloride. The solvent and unaltered thionyl chloride were evaporated under reduced pressure to give (±)-2-phenylpropionic acid chloride as a pale yellow oil. To the oil were added 30 ml of benzene, 7.30 g (52.5 mmol) of p-nitrophenol and 4.75 g (60.0 mmol) of pyridine were added, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with 10 ml of aqueous 10% hydrochloric acid, extracted with ethyl acetate, followed by solvent evaporation from the organic layer, to obtain 13.9 g of a pale yellow solid. Recrystallization of the solid from ethanol gave 10.4 g (38.4 mmol, yield 77%) of (±)-p-nitrophenyl 2-phenylpropionate as colorless crystals.

reactant | (±)-2-Phenylpropionic acid | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | thionyl chloride | 60 mmol, 7.14 g | S(=O)(Cl)Cl | Cl2OS
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | (±)-2-phenylpropionic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C | C9H9ClO
